US04290947
Triethylamine (263 mg, 2.6 mmol) is added by syringe to a mixture of (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one (253 mg, 0.72 mmol) and p-carboxybenzene sulfonylazide (196 mg, 0.84 mmol) in dry acetonitrile (6 ml) at 0° C. When addition is complete the cooling bath is removed and the reaction mixture is stirred at room temperature for 1 hour. The mixture is then diluted with ethyl acetate (50 ml) and filtered. The filtrate is concentrated in vacuo and the residue is chromatographed on a short silica gel column (ethyl acetate) to yield 222 mg, (81% overall from (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyl dimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one) of (3S,4R)-3-(R)-1-hydroxyethyl)-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxo-3-diazopropyl]azetidin-2-one as a white solid m.p. (dec.) 163° C. IR(CHCl3, CM-1) 3410, 2132, 1756, 1718, 1650, 1350, 1280, 1120; n.m.r. (CDCl3)δ7.9(2d-aromatic,4),δ5.4(s,2), δ6.2(brs,1),δ4.1(m,2),δ2.6-3.6(m,4),δ1.32(d,3,J=6.2).

reactant | Triethylamine | 2.6 mmol, 263 mg | C(C)N(CC)CC | C6H15N
reactant | (3S,4R)-3-[(R)-1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one | 0.72 mmol, 253 mg | O[C@H](C)[C@H]1C(N[C@@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H18N2O7
reactant | p-carboxybenzene sulfonylazide | 0.84 mmol, 196 mg | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C7H5N3O4S
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxo-3-diazopropyl]azetidin-2-one | [N+](=O)([O-])C1=CC=C(COC(=O)C(C(CC2CC(N2)=O)=O)=[N+]=[N-])C=C1 | C14H12N4O6
